US06376491B1
[3-Methyl-4-(1-pyridin-3-ylmethyl-piperidin-3-ylmethoxy)-benzofuran-2-yl]-methanol (107 mg), 5-hydroxybenzofuran-2-carboxylic acid ethyl ester (60 mg), triphenylphosphine (100 mg) and azodicarboxylic acid diethyl ester (70 μl) were dissolved in THF (7 ml). The solution was stirred overnight at room temperature. A white precipitate separated out. The precipitate was filtered out and the filtrate was evaporated to dryness. The residue was separated by silica gel column chromatography developed by dichloromethane-methanol to give 5-[3-methyl-4-(1-pyridin-3-ylmethyl-piperidin-3-ylmethoxy)-benzofuran-2-ylmethoxy]-benzofuran-2-carboxylic acid ethyl ester (48 mg) as a colorless oil. FAB-MS: m/z 555 (MH+); 1H-NMR (CDCl3): δ 1.25-2.23 (7H, m), 1.43 (3H, t, J=7 Hz), 2.24 (3H, s), 2.78 (1H, m), 2.95 (1H, m), 3.47 (1H, d, J=13 Hz), 3.57 (1H, d, J=13 Hz), 3.89 (2H, m), 4.44 (2H, q, J=7 Hz), 5.10 (2H, s), 6.55 (1H, d, J=8 Hz), 7.04 (1H, d, J=8 Hz), 7.14 (1H, dd, J1=9 Hz, J2=2 Hz), 7.23 (3H, m), 7.47 (1H, m), 7.48 (1H, s), 7.66 (1H, br d, J=7 Hz), 8.48 (1H, br d, J=5 Hz), 8.53 (1H, br s).

reactant | [3-Methyl-4-(1-pyridin-3-ylmethyl-piperidin-3-ylmethoxy)-benzofuran-2-yl]-methanol | 107 mg | CC1=C(OC2=C1C(=CC=C2)OCC2CN(CCC2)CC=2C=NC=CC2)CO | C22H26N2O3
reactant | 5-hydroxybenzofuran-2-carboxylic acid ethyl ester | 60 mg | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)O | C11H10O4
reactant | triphenylphosphine | 100 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxylic acid diethyl ester | 70 μl | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | 5-[3-methyl-4-(1-pyridin-3-ylmethyl-piperidin-3-ylmethoxy)-benzofuran-2-ylmethoxy]-benzofuran-2-carboxylic acid ethyl ester | 48 mg | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)OCC=2OC1=C(C2C)C(=CC=C1)OCC1CN(CCC1)CC=1C=NC=CC1 | C33H34N2O6
